US04087561
6-Methoxyquinoline (1.00g) was dissolved in absolute ethanol (20 ml) and hydrogenated under pressure in the presence of 10% palladium on charcoal (0.10g) with shaking for about 40 hours. Filtration and evaporation to dryness of the filtrate gave 1,2,3,4-tetrahydro-6-methoxyquinoline as a light-brown gum (0.97g). The structure was supported by nmr spectrum.

reactant | 6-Methoxyquinoline | 1.00g | COC=1C=C2C=CC=NC2=CC1 | C10H9NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.10g | [Pd] | Pd
product | 1,2,3,4-tetrahydro-6-methoxyquinoline | 0.97g | COC=1C=C2CCCNC2=CC1 | C10H13NO
